US05025025
Ethyl 8-amino-5-(3-pyridyloxy)-octanoate is condensed with p-chlorophenylsulfonyl chloride according to methodology previously described to yield ethyl 8-(p-chlorophenylsulfonamido)-5-(3-pyridyloxy)-octanoate which is purified by chromatography on silica gel using 7:3 ethyl acetate, hexane as eluent; 1H NMR (CDCl3): delta 8.26 (br,1H), 8.20 (br,4H), 5.23 (t,1H), 4.28 (m,1H), 4.08 (q,2H).

reactant | Ethyl 8-amino-5-(3-pyridyloxy)-octanoate | NCCCC(CCCC(=O)OCC)OC=1C=NC=CC1 | C15H24N2O3
reactant | p-chlorophenylsulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | ethyl 8-(p-chlorophenylsulfonamido)-5-(3-pyridyloxy)-octanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCCC(CCCC(=O)OCC)OC=1C=NC=CC1 | C21H27ClN2O5S
